US08492582B2
Water (0.74 mL), phenylboranic acid (0.12 g), sodium carbonate (0.21 g), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)palladium(II) dichloride (3.0 mg) were added to an ethylene glycol dimethyl ether (3.0 mL) suspension of the obtained 2-(benzyloxy)-N-(5-chloro-2-cyanophenyl)-5-(piperidin-1-yl)benzamide, followed by heating to reflux under a nitrogen atmosphere for 1 hour. After cooling the reaction mixture to room temperature, phenylboranic acid (0.12 g), sodium carbonate (0.21 g), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)palladium(II) dichloride (3.0 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 40 minutes. The reaction mixture was cooled to room temperature, and then chloroform and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 90-50% hexane/ethyl acetate] to obtain 0.32 g of 2-(benzyloxy)-N-(4-cyanobiphenyl-3-yl)-5-(piperidin-1-yl)benzamide as a yellow solid.

reactant | phenylboranic acid | 0.12 g | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | sodium carbonate | 0.21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(benzyloxy)-N-(5-chloro-2-cyanophenyl)-5-(piperidin-1-yl)benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C=CC(=C2)Cl)C#N)C=C(C=C1)N1CCCCC1 | C26H24ClN3O2
reactant | phenylboranic acid | 0.12 g | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | sodium carbonate | 0.21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethylene glycol dimethyl ether | 3.0 mL | COCCOC | C4H10O2
solvent | Water | 0.74 mL | O | H2O
product | 2-(benzyloxy)-N-(4-cyanobiphenyl-3-yl)-5-(piperidin-1-yl)benzamide | 0.32 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC=2C=C(C=CC2C#N)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C32H29N3O2
